US05073574
4,4'-Dicyanobenzophenone
8.13 g of CuCN are added to a solution of 5.1 g of 4,4'-dibromobenzophenone in 90 ml of DMF and the mixture is stirred under reflux for 13 hours. After cooling, the reaction mixture is diluted with ethyl acetate, washed twice with 50% aqueous ethylenediamine solution, twice with water and then three times with brine, dried and concentrated. Column chromatography (SiO2, toluene to toluene/ethyl acetate 95:5) yields the crystalline title compound; TLC (toluene/ethyl acetate 9:1): Rf =0.34; IR (CH2Cl2): 2220, 1670, 1605, 1405 cm-1.

reactant | CuCN | 8.13 g | C(#N)[Cu]
reactant | 4,4'-dibromobenzophenone | 5.1 g | BrC1=CC=C(C(=O)C2=CC=C(C=C2)Br)C=C1 | C13H8Br2O
reactant | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,4'-Dicyanobenzophenone | C(#N)C1=CC=C(C(=O)C2=CC=C(C=C2)C#N)C=C1 | C15H8N2O
